US05075300
5-(4-[2-(N-Methyl-N-(2-benzoxazolyl)amino)ethylthio]-benzyl)-2,4-thiazolidinedione
5-(4-[2-(N-Methyl-N-(2-benzoxazolyl)amino)ethylthio]-benzylidene)-2,4-thiazolidinedione (2 g) was dissolved in a mixture of methanol (70 ml) and 1,4-dioxan (70 ml). Magnesium turnings (1.7 g) were added and the solution stirred until no more effervescence was observed. The mixture was added to water (300 ml), acidified (2M HCl) to form a solution, neutralised (saturated NaHCO3 solution) and extracted with dichloromethane (3×150 ml). The organic extracts were washed with brine

reactant | 5-(4-[2-(N-Methyl-N-(2-benzoxazolyl)amino)ethylthio]-benzylidene)-2,4-thiazolidinedione | 2 g | CN(C=1OC2=C(N1)C=CC=C2)CCSC2=CC=C(C=C1C(NC(S1)=O)=O)C=C2 | C20H17N3O3S2
reactant | Magnesium | 1.7 g | [Mg] | Mg
reactant | HCl | 2M | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 70 ml | CO | CH4O
solvent | 1,4-dioxan | 70 ml | O1CCOCC1 | C4H8O2
solvent | water | 300 ml | O | H2O
product | 5-(4-[2-(N-Methyl-N-(2-benzoxazolyl)amino)ethylthio]-benzyl)-2,4-thiazolidinedione | CN(C=1OC2=C(N1)C=CC=C2)CCSC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C20H19N3O3S2
